US04870095
Ethyl 4-(4-methoxyphenyl)-5-phenyl-1H-pyrazole-1-acetate
Following the procedure of example 1B 11 g (0.39 mol) of 3-(dimethylamino)-2-(4-methoxyphenyl)-1-phenyl-2-propene-1-one and 6.6 g (0.43 mol) of ethyl hydrazinoacetate hydrochloride were reacted in 55 mL of absolute methanol under nitrogen. After 11/2 hours, 11.2 g of solid product was filtered off, mp 81°-84° C.

reactant | 3-(dimethylamino)-2-(4-methoxyphenyl)-1-phenyl-2-propene-1-one | 0.39 mol, 11 g | CN(C=C(C(=O)C1=CC=CC=C1)C1=CC=C(C=C1)OC)C | C18H19NO2
reactant | ethyl hydrazinoacetate hydrochloride | 0.43 mol, 6.6 g | Cl.N(N)CC(=O)OCC
solvent | methanol | 55 mL | CO | CH4O
product | Ethyl 4-(4-methoxyphenyl)-5-phenyl-1H-pyrazole-1-acetate | COC1=CC=C(C=C1)C=1C=NN(C1C1=CC=CC=C1)CC(=O)OCC | C20H20N2O3
